US09192606B2
A solution of 2-(3-(tert-butoxycarbonyl)phenyl)-3-methylpyridine-1-oxide (1 eq) and pyridine (4 eq) in MeCN (8 vol) is heated to 70° C. A solution of methanesulfonic anhydride (1.5 eq) in MeCN (2 vol) is added over 50 min via addition funnel maintaining the temperature at less than 75° C. The mixture is stirred for an additional 0.5 hours after complete addition. The mixture is then allowed to cool to ambient. Ethanolamine (10 eq) is added via addition funnel. After stirring for 2 hours, water (6 vol) is added and the mixture is cooled to 10° C. After stirring for NLT 3 hours, the solid is collected by filtration and washed with water (3 vol), 2:1 MeCN/water (3 vol), and MeCN (2×1.5 vol). The solid is dried to constant weight (<1% difference) in a vacuum oven at 50° C. with a slight N2 bleed to afford tert-butyl-3-(6-amino-3-methylpyridin-2-yl)benzoate as a red-yellow solid (53% yield).

reactant | 2-(3-(tert-butoxycarbonyl)phenyl)-3-methylpyridine-1-oxide | 1 eq | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C1=[N+](C=CC=C1C)[O-] | C17H19NO3
reactant | pyridine | 4 eq | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 1.5 eq | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | Ethanolamine | 10 eq | C(O)CN | C2H7NO
solvent | MeCN | CC#N | C2H3N
solvent | water | O | H2O
product | tert-butyl-3-(6-amino-3-methylpyridin-2-yl)benzoate | 53% yield | C(C)(C)(C)OC(C1=CC(=CC=C1)C1=NC(=CC=C1C)N)=O | C17H20N2O2
